US06187779B1
2-(2-n-Propoxy-5-Morpholinosulfonylphenyl)-8-(5-Phenyl-3-Penten-3-yl)Quinazolin-4(3H)-One
The title compounds are prepared analogously to the method of Example 1, starting with 2-(2-n-propoxy-5-morpholinosulfonylphenyl)-8-bromoquinazolin-4(3H)-one and 5-phenyl-2-pentene, respectively.

reactant | 2-(2-n-propoxy-5-morpholinosulfonylphenyl)-8-bromoquinazolin-4(3H)-one | C(CC)OC1=C(C=C(C=C1)S(=O)(=O)N1CCOCC1)C1=NC2=C(C=CC=C2C(N1)=O)Br | C21H22BrN3O5S
reactant | 5-phenyl-2-pentene | C1(=CC=CC=C1)CCC=CC | C11H14
product | 2-(2-n-Propoxy-5-Morpholinosulfonylphenyl)-8-(5-Phenyl-3-Penten-3-yl)Quinazolin-4(3H)-One | Yield: 39% | C(CC)OC1=C(C=C(C=C1)S(=O)(=O)N1CCOCC1)C1=NC2=C(C=CC=C2C(N1)=O)C(CC)=CCC1=CC=CC=C1 | C32H35N3O5S
